US06495546B1
A mixture of 3-hydroxy-6,7,8,9-tetrahydrobenzocyclohepten-5-one (7.02 g), potassium carbonate (8.25 g) and iodomethane (7.4 ml) in N,N-dimethylformamide (70 ml) was stirred at 50-55° C. for 7 hours. The resulting mixture was diluted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to afford 3-methoxy-6,7,8,9-tetrahydrobenzocyclohepten-5-one (5.49 g).

reactant | 3-hydroxy-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 7.02 g | OC1=CC2=C(CCCCC2=O)C=C1 | C11H12O2
reactant | potassium carbonate | 8.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 7.4 ml | IC | CH3I
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methoxy-6,7,8,9-tetrahydrobenzocyclohepten-5-one | 5.49 g | COC1=CC2=C(CCCCC2=O)C=C1 | C12H14O2
